US05424450
3,5-Dihydro-5-(1-phenylethylidene)-2-propyl-3-[(2' -(1H-tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one
3,5-dihydro-5-(1-phenylethylidene)-2-propyl-3-[(2'-(triphenylmethyltetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one (0.17 g) in tetrahydrofuran (20 mL) and 10% hydrochloric acid (5 mL) was allowed to stir at room temperature for 3.5 hr. The reaction mixture was treated with 50% sodium hydroxide to pH 8, concentrated and cooled in ice bath. The precipitate was filtered and the aqueous solution was adjusted to pH 4-5 using concentrated hydrochloric acid to give white solid which was washed with cold water and dried to give yellow solid (80 mg) as a mixture of the Z and E isomers (8:2). M.S. m/e 463 (M+ +H) NMR (CDCl3 /TMS) δ0.98 (t, 3H, CH3), 1.67 (m, 2H, CH2), 2.39 (t, 2H, CH2), 2.76 (s, 3H, CH3), 4.80 (s, 2H, CH2), 7.04-7.20 (m, 4H, Harom), 7.42-7.61 (m, 2H, Harom), 7.63 (d, 2H, Harom), 7.99 (d, 1H, Harom).

reactant | 3,5-dihydro-5-(1-phenylethylidene)-2-propyl-3-[(2'-(triphenylmethyltetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one | 0.17 g | C1(=CC=CC=C1)C(C)=C1C(N(C(=N1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C47H40N6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 5 mL | Cl | ClH
product | 3,5-Dihydro-5-(1-phenylethylidene)-2-propyl-3-[(2' -(1H-tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one | 80 mg | C1(=CC=CC=C1)C(C)=C1C(N(C(=N1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C28H26N6O
